US08470836B2
Synthesis of 3-methyl-piperidine-2,6-dione
Acetic anhydride was added to commercially available 2-methylglutaric acid (1 g, 6.8 mmol) at room temperature, and the mixture was stirred at 60° C. for 8 hours under reflux. After completion of the reaction was confirmed by TLC, the remaining acetic anhydride was removed under reduced pressure. The concentrated compound was dissolved in tetrahydrofuran and an ammonia aqueous solution (1.7 mL, 14.6 mmol) was slowly added thereto at 0° C., followed by stirring for 8 hours at room temperature. After the reaction was complete, the remaining ammonia aqueous solution was removed under reduced pressure and an acetic anhydride was added, followed by reflux at 60° C. for 8 hours. The residual acetic anhydride was removed under reduced pressure. The concentrate was purified by column chromatography (ethyl acetate:hexane=1:1) to afford 682 mg (yield: 78%) of the title compound.

reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-methylglutaric acid | 6.8 mmol, 1 g | CC(C(=O)O)CCC(=O)O | C6H10O4
reactant | ammonia aqueous | 14.6 mmol, 1.7 mL | [NH4+].[OH-]
product | 3-methyl-piperidine-2,6-dione | 682 mg, yield: 78% | CC1C(NC(CC1)=O)=O | C6H9NO2
